US04588732
5-[4-(Ethoxycarbonylmethylthio)butyl]imidazo[1,5-a]pyridine (4.4 g) in 30 ml of ethanol and 61 ml of 1.0N sodium hydroxide is heated under reflux for 3 hours. The ethanol is evaporated, the aqueous is extracted with ethyl acetate (20 ml) and the pH adjusted to 5. The resulting oil is crystallized from ethanol to yield 5-[4-(carboxymethylthio)butyl]imidazo[1,5-a]pyridine, m.p. 124°-126°.

reactant | 5-[4-(Ethoxycarbonylmethylthio)butyl]imidazo[1,5-a]pyridine | 4.4 g | C(C)OC(=O)CSCCCCC1=CC=CC=2N1C=NC2 | C15H20N2O2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.0N, 61 ml | [OH-].[Na+]
product | 5-[4-(carboxymethylthio)butyl]imidazo[1,5-a]pyridine | C(=O)(O)CSCCCCC1=CC=CC=2N1C=NC2 | C13H16N2O2S
